US06495546B1
To a solution of 2-[8-[N-tert-butoxycarbonyl-N-[(2S)-2-h ydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid ethyl ester (3.60 g) in ethanol (20 ml) was added 1N sodium hydroxide (7 ml) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. The resulting mixture was acidified with hydrochloric acid to pH 2 and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed (hexane-ethyl acetate) over silica gel to afford 2-[8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid (3.2 g).

reactant | 2-[8-[N-tert-butoxycarbonyl-N-[(2S)-2-h ydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid ethyl ester | 3.60 g | C(C)OC(COC=1C=CC2=C(CC(CCC2)N(C[C@@H](COC2=CC=CC=C2)O)C(=O)OC(C)(C)C)C1)=O | C29H39NO7
reactant | sodium hydroxide | 1N, 7 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid | 3.2 g | C(C)(C)(C)OC(=O)N(C[C@@H](COC1=CC=CC=C1)O)C1CCCC2=C(C1)C=C(C=C2)OCC(=O)O | C27H35NO7
